US04958026
10.9 g of N-[2-(3-benzyloxy-4-nitrophenyl)ethyl]-N,N-dipropylamine is hydrogenated analogously to the production of 2-(3-amino-4-benzyloxyphenyl)acetic acid dipropylamide and the product chromatographed on silica gel with methylene chloride/acetone (1:1), thus obtaining 7.0 g of N-[2-(4-amino-3-benzyloxyphenyl)ethyl]-N,N-dipropylamine as an oil.

reactant | N-[2-(3-benzyloxy-4-nitrophenyl)ethyl]-N,N-dipropylamine | 10.9 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])CCN(CCC)CCC | C21H28N2O3
reactant | 2-(3-amino-4-benzyloxyphenyl)acetic acid dipropylamide | C(CC)N(C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)N)=O)CCC | C21H28N2O2
product | N-[2-(4-amino-3-benzyloxyphenyl)ethyl]-N,N-dipropylamine | 7.0 g | NC1=C(C=C(C=C1)CCN(CCC)CCC)OCC1=CC=CC=C1 | C21H30N2O
